US07153871B2
1-Cyclopentyl-3-ethyl-6-[N-(3-pyridylmethyl)]amino-1H-indazole
To a mixture of 3-pyridinecarboxaldehyde (106 mg, 1.0 mol) in methanol (5.0 mL) was added 6-amino-1-cyclopentyl-3-ethyl-1H-indazole (240 mg, 1.05 mmol) and p-toluenesulfonic acid monohydrate (2.0 mg). The reaction mixture was stirred for 4 h. The flask was then cooled to 0° C. and sodium borohydride (0.09 g, 2.3 mmol) was added portion-wise over 4 h. The reaction mixture was allowed to warm to room temperature over 16h with stirring. TLC indicated the reaction was complete (1:3 hex:EA). The solvent was evaporated and diluted with water (10 mL) and extracted with ethyl acetate (2×20 mL). The combined organic layers were washed with brine (5 mL), dried over sodium sulfate, and concentrated to yield the desired product. 1H NMR (300 MHz) δ 8.64 (s,1H), 8.51 (m,1H), 7.70 (m, 1H), 7.42 (d, J=8.4 Hz, 1H), 7.25 (m, 1H), 6.50 (m,1H), 6.33 (s,1H), 4.68 (p,J=7.8 Hz, 1H), 4.55 (br,1H), 4.40 (s,1H), 2.90 (q,J=7.7 Hz,2H), 2.1–1.8 (m,6H), 1.8–1.6 (m,2H), 1.34 (t,J=7.7 Hz,3H).

reactant | 3-pyridinecarboxaldehyde | 1.0 mol, 106 mg | N1=CC(=CC=C1)C=O | C6H5NO
reactant | 6-amino-1-cyclopentyl-3-ethyl-1H-indazole | 1.05 mmol, 240 mg | NC1=CC=C2C(=NN(C2=C1)C1CCCC1)CC | C14H19N3
reactant | p-toluenesulfonic acid monohydrate | 2.0 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | sodium borohydride | 2.3 mmol, 0.09 g | [BH4-].[Na+]
solvent | methanol | 5.0 mL | CO | CH4O
solvent | EA | CC(OCC)=O | C4H8O2
product | 1-Cyclopentyl-3-ethyl-6-[N-(3-pyridylmethyl)]amino-1H-indazole | C1(CCCC1)N1N=C(C2=CC=C(C=C12)NCC=1C=NC=CC1)CC | C20H24N4
